US05977132
To the solution is added one equivalen to a small excess amount of a base, e.g. potassium carbonate, triethylamine, sodium hydrogen, one equivalent to excess amount of halogens alkyl derivative, e.g. methyl iodide, propyl iodide, benzyl iodide, and the mixture is stirred at a temperature of 0° C. to 80° C. to give a quinoline derivative (ivz).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen | [Na].[H][H]
reactant | methyl iodide | CI | CH3I
reactant | propyl iodide | C(CC)I | C3H7I
reactant | benzyl iodide | C(C1=CC=CC=C1)I | C7H7I
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
